US07417157B2
(±)-(4aR*, 9bS*)-7-ethoxy-3-(4-ethoxy-2,3-difluorophenyl)-6-fluoro-1,4,4a,9b-tetrahydrodibenzofuran
8.5 g (20.8 mmol) of (±)-(4aR*, 9bS*)-7-ethoxy-3-(4-ethoxy-2,3-difluorophenyl)-6-fluoro-1,2,3,4,4a,9b-hexahydrodibenzofuran-3-ol in 200 ml of toluene are heated on a water separator for 30 min together with 396 mg (2.08 mmol) of p-toluenesulfonic acid monohydrate. After cooling, the batch is filtered adsorptively (SiO2, ethyl acetate:n-heptane=4:1), and the filtrate is concentrated to dryness. The product mixture obtained in this way can be used directly for the following reaction.

reactant | 7-ethoxy-3-(4-ethoxy-2,3-difluorophenyl)-6-fluoro-1,2,3,4,4a,9b-hexahydrodibenzofuran-3-ol | C(C)OC1=C(C2=C(C3C(O2)CC(CC3)(O)C3=C(C(=C(C=C3)OCC)F)F)C=C1)F | C22H23F3O4
reactant | water | O | H2O
reactant | p-toluenesulfonic acid monohydrate | 2.08 mmol, 396 mg | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 7-ethoxy-3-(4-ethoxy-2,3-difluorophenyl)-6-fluoro-1,4,4a,9b-tetrahydrodibenzofuran | C(C)OC1=C(C2=C(C3C(O2)CC(=CC3)C3=C(C(=C(C=C3)OCC)F)F)C=C1)F | C22H21F3O3
